US04108859
EXAMPLE 1 - N-(3,5,6-Trichloro-2-pyridinyl)-1,6-hexanediamine, monohydrochloride
24.2 grams (0.112 mole) of 2,3,5,6-tetrachloropyridine was added portionwise to a stirring solution of 1,6-hexanediamine (23.2 grams; 0.2 mole) in 300 ml. of THF. The mixture was stirred overnight at room temperature, then evaporated to dryness under reduced pressure. A solution of the residual material in water was made alkaline with K2CO3 and extracted with CH2Cl2. The organic layer was dried and evaporated to dryness and the residue dissolved in diethyl ether. Acidification with hydrogen chloride (in ether) precipitated 24.6 grams (66% of theory) of the title compound, a white solid melting at 124°-5° C.:

reactant | 2,3,5,6-tetrachloropyridine | 0.112 mole, 24.2 grams | ClC1=NC(=C(C=C1Cl)Cl)Cl | C5HCl4N
reactant | 1,6-hexanediamine | 0.2 mole, 23.2 grams | C(CCCCCN)N | C6H16N2
solvent | THF | C1CCOC1 | C4H8O
product | 1 - N-(3,5,6-Trichloro-2-pyridinyl)-1,6-hexanediamine, monohydrochloride | Cl.ClC=1C(=NC(=C(C1)Cl)Cl)NCCCCCCN | InChI=1S/C11H16Cl3N3.ClH/c12-8-7-9(13)11(17-10(8)14)16-6-4-2-1-3-5-15;/h7H,1-6,15H2,(H,16,17);1H
